Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
orthopnea, aflutter

 
Major Surgical or Invasive Procedure:
___: Intubated
___: Right heart catheterization and IABP inserted
 
History of Present Illness:
___ yo M w/ hx of CAD s/p CABG x 3, sCHF (EF ___, HLD 
presents with aflutter with RVR.  patient was seen in clinic 3 
weeks prior for dyspnea on exertion, orthopnea, weight gain, 
cough.  At that time he was started on furosemide 80mg PO.   His 
weight was 244 lb at that time. He decreased the dose to 60 mg 3 
days after.  His weight went down to 231 lb after only 2 days on 
80 mg.  Cough has not subsided and he is still dyspneic with 4 
pillows orthopnea.  He gained 10 lbs back over the last week. He 
was then started on torsemide 40mg daily on ___ and has lost 
16 pounds
and was off of the medication yesterday afternoon and today. He
remains extremely fatigued, with significant orthopnea.
 
In the ED, initial vitals were 145 ___ 95% 
Labs and imaging significant for mild pulmonary vascular 
congestion but no overt edema, proBNP: 2976, trop 0.08
 
Patient given 2.5mg metoprolol however blood pressure dropped to 
88 systolic from 120 systolic, so a 250cc bolus was given. 
Vitals on transfer were 97.8 141 114/70 16 100%  
 
On arrival to the floor, patient only complains of orthopnea and 
wanting a sleeping pill.  
 
REVIEW OF SYSTEMS  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia  
2. CARDIAC HISTORY: 
-CHF (EF ___ 
-CABG:  s/p CABG x 3 on ___ (LIMA to LAD, SV to ___, SVG to 
diagonal). 
-PERCUTANEOUS CORONARY INTERVENTIONS:  
3. OTHER PAST MEDICAL HISTORY: 
Depression
Post-op Atrial fibrillation 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
Admission:
VS: T97.4 118/84 141 26 92RA
General: well appearing, NAD
HEENT:   NCAT, oropharynx clear
Neck:   JVP @ 1cm above clavicle
CV:  tachy, no mrg appreciated
Lungs: crackles at bases bilaterally, shallow breaths, no 
increased wob
Abdomen: soft, nt, nd, no organomegaly
GU: deferred
Ext:   1+ ___ edema to mid shin bilaterally
Neuro: non focal, CN ___ intact
Skin: no mottling, no rashes or excoriations
Pulses: DP pulse present bilaterally

Discharge:
General: intubated, sedated. Opens eyes and moves to voice.
HEENT:   NCAT, anicteric sclera
Neck:   PA catheter line in place
CV:  tachy, no mrg appreciated
Lungs: mild crackles loudest at bases bilaterally
Abdomen: soft, nt, nd, no organomegaly
GU: deferred
Ext:  cool peripherally.  trace ___ edema to mid shin bilaterally
Neuro: non focal
Skin: no mottling, no rashes or excoriations
Pulses: DP pulse present bilaterally
 
Pertinent Results:
ADMISSION:
___ 05:00PM   ___ PTT-28.3 ___
___ 05:00PM   PLT COUNT-222
___ 05:00PM   NEUTS-61.9 ___ MONOS-7.8 EOS-2.3 
BASOS-1.2
___ 05:00PM   WBC-9.0 RBC-4.99 HGB-16.2 HCT-47.0 MCV-94 
MCH-32.5* MCHC-34.5 RDW-13.2
___ 05:00PM   CALCIUM-11.0* PHOSPHATE-4.3 MAGNESIUM-2.0
___ 05:00PM   proBNP-2976*
___ 05:00PM   cTropnT-0.08*
___ 05:00PM   GLUCOSE-177* UREA N-30* CREAT-1.8* SODIUM-137 
POTASSIUM-3.7 CHLORIDE-95* TOTAL CO2-29 ANION GAP-17
___ 07:30PM URINE  MUCOUS-MANY
___ 07:30PM URINE  GRANULAR-23* HYALINE-104*
___ 07:30PM URINE  RBC-6* WBC-34* BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 07:30PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-300 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-5.5 LEUK-SM 

___ 07:30PM URINE  COLOR-Yellow APPEAR-Hazy SP ___

INTERIM:
___ 04:32PM BLOOD Lactate-6.7*
___ 06:16PM BLOOD Lactate-2.8*
___ 08:23AM BLOOD Lactate-1.3
___ 10:09AM BLOOD Lactate-1.1
___ 03:10PM BLOOD Lactate-1.1
___ 05:00PM BLOOD proBNP-2976*
___ 05:00PM BLOOD cTropnT-0.08*
___ 05:57AM BLOOD CK-MB-2 cTropnT-0.07*

LABS ON TRANSFER:
___ 08:05AM BLOOD WBC-9.3 RBC-4.52* Hgb-14.5 Hct-42.2 
MCV-93 MCH-32.2* MCHC-34.5 RDW-13.0 Plt ___
___ 08:05AM BLOOD Glucose-233* UreaN-38* Creat-2.2* Na-134 
K-3.0* Cl-93* HCO3-30 AnGap-14
___ 08:05AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.0
___ 03:10PM BLOOD Type-ART Temp-37.2 Rates-/14 PEEP-5 
FiO2-50 pO2-80* pCO2-45 pH-7.40 calTCO2-29 Base XS-1 
Intubat-INTUBATED Vent-SPONTANEOU

IMAGING:
Cardiovascular Report ECG Study Date of ___  5:42:06 ___   
Narrow complex tachycadia appears to be probable atrial flutter 
with 
ventricular premature beats also seen. Diffuse non-specific ST-T 
wave changes. Cannot exclude prior anterior and inferior 
myocardial infarction. Compared to the previous tracing of 
___ the rhythm is now atrial flutter. Rate has increased. 
Prior inferior wall myocardial infarction seen on the other 
tracing is less clearly apparent on this due to baseline 
artifact and the flutter waves.  

___ Imaging CHEST (PORTABLE AP) 
FINDINGS: 
The patient is status post median sternotomy and CABG.  Moderate 
enlargement of cardiac silhouette is unchanged.  Aortic knob 
calcifications are re- demonstrated.  There is mild pulmonary 
vascular engorgement, but no overt pulmonary edema.  Patchy 
retrocardiac and right basilar opacity could reflect 
atelectasis.  No pleural effusion or pneumothorax is identified. 
 There are no acute osseous abnormalities. 
IMPRESSION: 
Moderate enlargement of cardiac silhouette with mild pulmonary 
vascular 
congestion but no overt edema.  Mild bibasilar atelectasis. 

Cardiovascular Report Cardiac Cath Study Date of ___    
COMMENTS:      
1.  Right heart catheterization revealed elevated right and left 
heart 
filling pressures with a depressed cardiac index.  The 
intracardiac 
pressures were as follows in mmHg:  RA mean 16, RV 40/17, PA 
___ (mean 
30), PCW mean 22.  The heart rate was 100 BPM.  The PA sat was 
56% with 
an arterial sat of 98%.  The cardiac output/index was calculated 
using 
the ___ equation with an assumed oxygen consuption.  The 
Cardiac output 
was calculated at 2.96 l/min, the cardiac index was 1.35 
l/min/m2. 
2. Successful Placement of 40cc IABP via right femoral artery 
and 
sutured in place. 
  
FINAL DIAGNOSIS:     
1. Elevated right and left heart filling pressures 
2. Depressed cardiac output/index. 

Portable TEE (Complete) Done ___ at 1:51:01 ___      FINAL 
Conclusions  
The left atrium is dilated. No spontaneous echo contrast or 
thrombus is seen in the body of the left atrium/left atrial 
appendage or the body of the right atrium/right atrial 
appendage. Left atrial appendage ejection velocity is good (>20 
cm/s). The right atrium is dilated. No atrial septal defect is 
seen by 2D or color Doppler. Overall left ventricular systolic 
function is severely depressed (LVEF<30 %). The right 
ventricular cavity is mildly dilated with depressed free wall 
contractility. There are complex (>4mm) atheroma in the aortic 
arch. The descending thoracic aorta is mildly dilated. There are 
complex (>4mm), non-mobile atheroma in the descending thoracic 
aorta. The aortic valve leaflets (3) are mildly thickened. Trace 
aortic regurgitation is seen. Moderate to severe (3+) mitral 
regurgitation is seen. Moderate to severe [3+] tricuspid 
regurgitation is seen. The tricuspid regurgitation jet is 
eccentric and may be underestimated. There is mild pulmonary 
artery systolic hypertension (likely underestimated). There is 
no pericardial effusion. 

IMPRESSION: No SEC or thrombus in the ___. Severely 
depressed left ventricular systolic function. Depressed right 
ventricular systolic function. Moderate to severe mitral and 
tricuspid regurgitation. Complex atheroma of the aortic arch and 
descending aorta.

Radiology Report CHEST (PORTABLE AP) Study Date of ___ 4:06 
___  
FINDINGS:  In comparison with study of ___, there is continued 
enlargement of the cardiac silhouette without appreciable 
pulmonary vascular congestion.  Mild retrocardiac opacification 
is consistent with atelectasis and possible small pleural 
effusion. 

Portable TTE (Focused views) Done ___ at 1:41:43 ___      
FINAL 
Conclusions  
The left ventricular cavity is moderately dilated. Overall left 
ventricular systolic function is severely depressed (LVEF= 10% 
to 15%). The right ventricular cavity is dilated with depressed 
free wall contractility. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Trivial 
mitral regurgitation is seen. [Due to acoustic shadowing, the 
severity of mitral regurgitation may be significantly 
UNDERestimated.] The pulmonary artery systolic pressure could 
not be determined. 

IMPRESSION: Mild to moderate left ventricular dilation with 
severe global hypokinesis. The septum is near-akinetic. Dilated 
and hypokinetic right ventricle. Unable to assess pulmonary 
artery systolic pressure. 
 

 
Brief Hospital Course:
___ year old male with CAD, systolic heart failure presented with 
atrial flutter new onset. Patient acutely decompensated s/p 
cardioversion.  

# Acute on chronic congestive heart failure with systolic 
dysfunction: LVEF ___ patient presented with dyspnea on 
exertion, orthopnea in setting of atrial flutter.  patient has 
been diuresed significantly over the course of the last 2 weeks. 
On ___ patient developed worsening dyspnea after cardioversion, 
SBP to ___, cool peripherally, gave 80 mg IV lasix and started 
on lasix ggt at 10 mg/hr. EKG was unchanged, CXR with worsening 
pulmonary edema.  A venous blood gas showed lactate of 6.7 
amidst notable dyspnea and hypoxia to low ___ with SBP 
___. Dopamine was started.  Patient was intubated and brought 
for R heart cath which revealed revealed elevated right and left 
heart filling pressures with a depressed cardiac index.  The 
intracardiac pressures were as follows in mmHg:  RA mean 16, RV 
40/17, PA ___ (mean 30), PCW mean 22.  The heart rate was 100 
BPM.  The PA sat was 56% with an arterial sat of 98%. The 
Cardiac output was calculated at 2.96 l/min, the cardiac index 
was 1.35 l/min/m2. A IABP was placed via R femoral artery and at 
time of transfer set to 1:1.  TTE on ___ showed EF ___, mild 
to moderate left ventricular dilation with severe global 
hypokinesis, septum is near-akinetic, dilated and hypokinetic 
right ventricle. Lower extremity ultrasound to assess for DVT 
was negative although R common femoral vein could not be imaged. 
 Dopamine was increased and milrinone was started.  CK MB flat, 
Tpn 0.14. Diuresis proved to be difficult with 20 mg/hr lasix, 
200 mg bolus and diuril. Patient being transferred to ___ for 
transplant evaluation and possible left ventricular assist 
device.

#. Respiratory: Patient electively intubated. Low grade temp on 
___ so started on Vancomycin and Cefepime.

# Atrial Flutter: Patient presented in atrial flutter with rates 
in 150s.  Patient started on heparin drip, TEE cardioversion 
performed on ___ with amiodarone loading.  Post cardioversion 
patient decompensated as described above.

# CAD s/p CABG: Troponin 0.08, 0.07, MB of 2 felt to be 
secondary to demand ischemia in setting of tachycardia.  Trop 
and CKMB rechecked ___ and 0.14, 2, respectively.  Patient 
continued on atorvastatin.

CHRONIC ISSUES:
#HLD: Continue atorvastatin.
#Depression: On wellbutrin at home.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 25 mg PO DAILY 
2. Torsemide 40 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 80 mg PO DAILY 
6. BuPROPion 150 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
4. BuPROPion (Sustained Release) 150 mg PO DAILY 
5. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
6. Docusate Sodium (Liquid) 100 mg PO BID 
7. DOPamine ___ mcg/kg/min IV DRIP INFUSION 
8. Fentanyl Citrate ___ mcg/hr IV DRIP INFUSION Allow bolus: 
Yes Bolus: 50 mcg MR X2 Q1H PRN 
9. Furosemide 20 mg/hr IV DRIP INFUSION 
10. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
11. Glucose Gel 15 g PO PRN hypoglycemia protocol 
12. Heparin IV per Weight-Based Dosing Guidelines

13. Heparin (IABP) 3 mL/hr IV INFUSION 
For Intra-aortic Ballon Pump Administration Only 
14. Insulin SC 
      Sliding Scale

Fingerstick QACHS, HS, QAM
Insulin SC Sliding Scale using HUM Insulin
15. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN sob 
16. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
17. Midazolam 0.5-4.0 mg/hr IV DRIP TITRATE TO RASS -1 Awakens 
to voice (eye opening/contact)>10 seconds Allow bolus: Yes 
Bolus: 1 mg MR X2 Q1H PRN 
Patient must have adequate airway support prior to 
administration of dose. 
18. Norepinephrine 0.3-0.5 mcg/kg/min IV DRIP TITRATE TO MAP > = 
70 
19. Senna 1 TAB PO BID:PRN constipation 
20. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
21. Amiodarone 0.5 mg/min IV INFUSION 
22. CefePIME 2 g IV Q12H 
23. Milrinone 0.25-0.375 mcg/kg/min IV INFUSION 
24. Vancomycin 1000 mg IV Q 24H 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary: atrial flutter, acute on chronic systolic heart failure

 
Discharge Condition:
Intubated and sedated

 
Discharge Instructions:
Mr. ___ was admitted with a rapid heart rhythm and had a 
cardioversion to restore a normal rhythm.  After this he had 
difficulty breathing and required life support. This was due to 
acute worsening of heart failure.

Patient being transferred to ___ for further 
management.
 
Followup Instructions:
___